### PR TITLE
Weak approximation at infinite places

### PR DESCRIPTION
**Pull request by smmercuri**
This PR contains three weak approximation results of a number field `K` with respect to its infinite places of the following form

- `K` is dense in `Π v, K`
- `K` is dense in the infinite adele ring 
- `K` is dense in any sub-collection `Π {v // p v}, K` of infinite place completions

Depends on #321 
Depends on #322

### CODE REVIEW

**Comment by smmercuri** [comment]
Breaking this up into smaller PRs as it's too big!

**Comment by kbuzzard** [comment]
I merged them!

**Comment by smmercuri** [comment]
Yeah this PR is now updated and ready to review. I can't edit labels at all, for mathlib PRs there's a cog next to the labels which let's me modify them but that cog doesn't appear here. From [here](https://docs.github.com/en/issues/using-labels-and-milestones-to-track-work/managing-labels#applying-a-label) it seems I'd be able to edit labels if I had "triage access"

File: FLT/NumberField/WeakApproximation.lean [hunk 1]
```diff
@@ -0,0 +1,414 @@
...
+  simp only [coe_apply, ← hψv, ← hψw] at h
+  have := congrArg (Real.logb 2) (h 2)
+  simp only [place_apply, map_ofNat, RCLike.norm_ofNat, Nat.one_lt_ofNat, Real.logb_self_eq_one,
+    Nat.ofNat_pos, ne_eq, OfNat.ofNat_ne_one, not_false_eq_true, Real.logb_rpow] at this
+  exact this.symm
+
+/--
+If `v` and `w` are infinite places of `K` and `v = w ^ t`, then `v = w`.
+-/
+theorem eq_of_eq_rpow (h : ∃ (t : ℝ) (_ : 0 < t), ∀ x, v x = (w x) ^ t) : v = w := by
```
Comment (kbuzzard) [inline FLT/NumberField/WeakApproximation.lean:254]: Asking for 0<t seems very strange to me.

**Review by kbuzzard — COMMENTED** [review]
Probably the general field part of this file should be PRed to mathlib. Thanks!
